US06340759B1
(284-6) 4-(1-Ethylpiperazin-4-yl)-6-[3-(2-hydroxyethoxy)phenyl]thieno[3,2-c]pyridin dihydrochloride
6-Amino-4-bromothieno[3,2-c]pyridine (894 mg) was treated in the same manner as in Example 245-1, to obtain a mixture of 4,6-dibromothieno[3,2-c]pyridine and 4,6,7-tribromothieno[3,2-c]pyridine (6:4). Continuously, the mixture was treated in the same manner as in Example 245-2 and then treated with 3-tributylstannylphenoxyethyl acetate (394 mg) in the same manner as in Example 300-4. Then, the reaction mixture was dissolved in N,N-dimethylformamide (15 ml), followed by the addition of t-butyldimethylsilyl chloride (241 mg) and imidazole (136 mg), and the mixture was stirred for 1 hr at room temperature. The reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (over MgSO4) and evaporated. The residue was dissolved in tetrahydrofuran (12 ml), followed by the addition of 2.5M n-butyl lithium/hexane solution (480 ml) in nitrogen atmosphere at −70° C., and the mixture was stirred for 30 min. Then, an aqueous solution of saturated ammonium chloride was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried (over MgSO4) and evaporated. The residue was purified by (NH) silica gel column chromatography (ethyl acetate/hexane system). The resulting product was then converted into a hydrochloride in a conventional manner, to give the hydrochloride of the title compound as a colorless amorphous (288 mg, yield; 15%).

reactant | 6-Amino-4-bromothieno[3,2-c]pyridine | 894 mg | NC1=CC2=C(C(=N1)Br)C=CS2 | C7H5BrN2S
reactant | 4,6-dibromothieno[3,2-c]pyridine | BrC1=NC(=CC2=C1C=CS2)Br | C7H3Br2NS
reactant | 4,6,7-tribromothieno[3,2-c]pyridine | BrC1=NC(=C(C2=C1C=CS2)Br)Br | C7H2Br3NS
reactant | 3-tributylstannylphenoxyethyl acetate | 394 mg | C(C)(=O)OCCOC1=CC(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | t-butyldimethylsilyl chloride | 241 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 136 mg | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(1-Ethylpiperazin-4-yl)-6-[3-(2-hydroxyethoxy)phenyl]thieno[3,2-c]pyridin dihydrochloride | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC(=CC=C2)OCCO | InChI=1S/C21H25N3O2S.2ClH/c1-2-23-7-9-24(10-8-23)21-18-6-13-27-20(18)15-19(22-21)16-4-3-5-17(14-16)26-12-11-25;;/h3-6,13-15,25H,2,7-12H2,1H3;2*1H
